US05155113
Preparation of 5-chloro-2,4-di(4-methylbenzoyloxy)-pyridine
A 2.66 g quantity of 4-methylbenzoyl chloride was added dropwise to 50 ml of a solution of 1.00 g of 5-chloro-4-hydroxy-2-pyridone in pyridine. The mixture was subjected to reaction at room temperature overnight. The pyridine was distilled off and the residue was stirred in ether for 6 hours. The solids thus precipitated were dried, giving 1.71 g of the title compound. The ether was concentrated and the residue was applied to silica gel column chromatography using as an eluent petroleum ether-chloroform (1:2), affording 0.85 g of the same compound (total amount 2.56 g, total yield 97%).

reactant | 4-methylbenzoyl chloride | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | 5-chloro-4-hydroxy-2-pyridone | 1.00 g | ClC=1C(=CC(NC1)=O)O | C5H4ClNO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-chloro-2,4-di(4-methylbenzoyloxy)-pyridine | 1.71 g | ClC=1C(=CC(=NC1)OC(C1=CC=C(C=C1)C)=O)OC(C1=CC=C(C=C1)C)=O | C21H16ClNO4
